US09079866B2
(3-Bromopyridin-2-yl)(morpholino)methanone
To a round-bottomed flask that had been purged with nitrogen, were added 3-bromopicolinic acid (500 mg, 2.50 mmol), morpholine (259 mg, 3.00 mmol), EDCI (712 mg, 3.70 mmol), HOBT (501 mg, 3.70 mmol), triethylamine (1.0 mL, 7.4 mmol) and DMF (12 mL). The mixture was stirred at rt for 24 h, before diluting with water (100 mL) and extracting with ethyl acetate (2×100 mL). The combined organic extracts were washed with saturated bicarbonate (1×50 mL), water (2×50 mL), dried with sodium sulfate, and concentrated to dryness. The crude product was purified by FCC to provide the title compound. MS (ESI): mass calcd. for C10H11BrN2O2, 270.00; m/z found, 271.0 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.57 (dd, J=4.7, 1.4, 1H), 7.93 (dd, J=8.2, 1.4, 1H), 7.23 (dd, J=8.2, 4.7, 1H), 3.90-3.77 (m, 4H), 3.74-3.62 (m, 2H), 3.30-3.15 (m, 2H).

reactant | 3-bromopicolinic acid | 2.50 mmol, 500 mg | BrC=1C(=NC=CC1)C(=O)O | C6H4BrNO2
reactant | morpholine | 3.00 mmol, 259 mg | N1CCOCC1 | C4H9NO
reactant | EDCI | 3.70 mmol, 712 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 3.70 mmol, 501 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 7.4 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | water | 100 mL | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | (3-Bromopyridin-2-yl)(morpholino)methanone | BrC=1C(=NC=CC1)C(=O)N1CCOCC1 | C10H11BrN2O2
